US04426332
In contrast cyclohexane-1,3-dione (R2 to R4 are H), for example, can be converted in 76% yield, to 1,3-dimethoxybenzene of type Ic over a Cu2O/thionyl chloride catalyst in methanolic solution. A 60% yield of 1,3-dimethoxy-5-methyl-benzene is obtained as the main product from 5-methyl-cyclohexane-1,3-dione under the same conditions.

reactant | cyclohexane-1,3-dione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 1,3-dimethoxybenzene | COC1=CC(=CC=C1)OC | C8H10O2
reactant | 5-methyl-cyclohexane-1,3-dione | CC1CC(CC(C1)=O)=O | C7H10O2
product | 1,3-dimethoxy-5-methyl-benzene | 60% yield | COC1=CC(=CC(=C1)C)OC | C9H12O2
